US07482340B2
c) 4-(4-Methylpiperazin-1-ylmethyl)benzoic acid
HCl-salt of 4-(4-methylpiperazin-1-ylmethyl)benzoic acid methyl ester (1.25 g) was dissolved in potassium hydroxide-methanol solution (0.93 g KOH in 15 ml methanol). Water (0.75 ml) was added and the mixture was refluxed for 1 hour. The reaction mixture was allowed to cool into room temperature and the pH was tuned to 6 with 2 M HCl. The solvent was evaporated and the residue was dried under vacuum. The residue contained 4-(4-methylpiperazin-1-ylmethyl)benzoic acid and inorganic salts. It was used further without purification and the yield of title compound was assumed to be 100%. 1H NMR (400 MHz, d6-DMSO) δ: 2.27 (s, 3H), 2.44 (bs, 2H), 3.18-3.95 (m, 8H), 7.41 (d, 2H, J 8.0 Hz), 7.89 (d, 2H, J 8.1 Hz).

reactant | 4-(4-methylpiperazin-1-ylmethyl)benzoic acid methyl ester | 1.25 g | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
reactant | Water | 0.75 ml | O | H2O
reactant | HCl | 2 M | Cl | ClH
solvent | potassium hydroxide methanol | 15 ml, 0.93 g | [OH-].[K+].CO
product | 4-(4-Methylpiperazin-1-ylmethyl)benzoic acid | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
